### PR TITLE
[Merged by Bors] - chore: remove `erw` from `Sym2.other_spec`

### PR DESCRIPTION
**Pull request by BoltonBailey**
This PR addresses an `erw` linter instance by rewriting a proof.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Sym/Sym2.lean [hunk 1]
```diff
@@ -352,7 +352,8 @@ noncomputable def Mem.other {a : α} {z : Sym2 α} (h : a ∈ z) : α :=
 
 @[simp]
 theorem other_spec {a : α} {z : Sym2 α} (h : a ∈ z) : s(a, Mem.other h) = z := by
-  erw [← Classical.choose_spec h]
+  symm
+  exact Classical.choose_spec h
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2.lean:356]: Does `(Classical.choose_spec h).symm` work too, dropping the `by`?

**Review by eric-wieser — APPROVED** [review]
bors d+
